US08835428B2
Step 1: Methyl 2-(3-(4-hydroxyphenyl)isoxazole-5-carboxamido)-3-methylbutanoate
To Methyl 2-(3-(4-(benzyloxy)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate (6 g) in THF (120 ml), 10% Palladium on carbon (Wet, 600 mg) was added and hydrogenated at 50 psi for 3 hours. Reaction mixture was filtered through Celite and filtrate was concentrated to obtain yellow residue. This residue was purified by column chromatography (silica gel, EtOAc—CHCl3) to obtain yellow solid, which was crystallized using DCM—Petroleum ether to obtain the title compound as pale yellow solid. Yield: 2.25 g (48%); MS (ES+): m/z−319 (M+1); 1HNMR (DMSO-d6; 300 MHz): δ 10.01 (bs, 1H), 9.16 (d, 1H), 7.75 (d, 2H), 7.61 (s, 1H), 6.91 (d, 2H), 4.3 (m, 1H), 3.67 (s, 3H), 2.21 (m, 1H), 0.96 (d, 6H);

reactant | Methyl 2-(3-(4-(benzyloxy)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate | 6 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C | C23H24N2O5
solvent | THF | 120 ml | C1CCOC1 | C4H8O
catalyst | Palladium on carbon | 600 mg | [Pd] | Pd
product | Methyl 2-(3-(4-hydroxyphenyl)isoxazole-5-carboxamido)-3-methylbutanoate | OC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C | C16H18N2O5
